US07153855B2
In a similar manner as described in Example 46 from 2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridine-3-carbaldehyde (1.0 g, 2.9 mmol) and ethynylmagnesium bromide (6.4 mL, 0.5 M in tetrahydrofuran, 3.2 mmol) at 0 ° C., was obtained 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (0.68 g, 68%) as a white solid. 1H NMR (DMSO-d6): δ 8.04 (m, 2 H), 7.87 (d, 1 H), 7.67 (d, 1 H), 7.49 (t, 1 H), 7.38–7.29 (m, 2 H), 6.27 (bs, 1 H), 5.69 (s, 1 H), 3.49 (d, 1 H).

reactant | 2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridine-3-carbaldehyde | 2.9 mmol, 1.0 g | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C=O | C14H8BrClN2O
reactant | ethynylmagnesium bromide | 3.2 mmol, 0.5 M, 6.4 mL | C(#C)[Mg]Br
product | 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | 0.68 g, 68% | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C(C#C)O | C16H10BrClN2O
